US07659048B2
As shown in Reaction Scheme 2, para-cresol (p-CH3C6H4OH) is reacted with butadiene (C4H6) to form 3-(but-3-enyl)-4-methylphenol.

reactant | para-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | butadiene | C=CC=C | C4H6
product | 3-(but-3-enyl)-4-methylphenol | C(CC=C)C=1C=C(C=CC1C)O | C11H14O
